US09284295B2
A mixture of 600 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 394 mg of ethyl 4-aminobutyrate hydrochloride, 0.27 mL of triethylamine, and 6.0 mL of dichloromethane was stirred at room temperature for 2 hours. The reaction mixture was purified by silica gel column chromatography (hexane-chloroform) to obtain 442 mg of methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a pale yellow solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 600 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | ethyl 4-aminobutyrate hydrochloride | 394 mg | Cl.NCCCC(=O)OCC
reactant | triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.0 mL | ClCCl | CH2Cl2
product | methyl 4-{2-[4-({[2-({3-[(4-ethoxy-4-oxobutyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 442 mg | C(C)OC(CCCNS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)=O | C38H41N3O8S2
